### PR TITLE
[Merged by Bors] - feat(CategoryTheory/ObjectProperty): API for bot/top as object properties 

### PR DESCRIPTION
**Pull request by justus-springer**
This PR adds some instances and API handling bot and top as object properties.

This is used in the definition of strong generators in #37046.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/ObjectProperty/LimitsClosure.lean [hunk 1]
```diff
@@ -66,6 +66,19 @@ lemma limitsClosure_monotone {Q : ObjectProperty C} (h : P ≤ Q) :
     P.limitsClosure J ≤ Q.limitsClosure J :=
   limitsClosure_le (h.trans (Q.le_limitsClosure J))
 
+lemma limitsClosure_eq_self [P.IsClosedUnderIsomorphisms]
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/ObjectProperty/LimitsClosure.lean:69]: Can you also provide the duals of these results?

File: Mathlib/CategoryTheory/ObjectProperty/LimitsOfShape.lean [hunk 2]
```diff
@@ -63,6 +63,14 @@ lemma strictLimitsOfShape_monotone {Q : ObjectProperty C} (h : P ≤ Q) :
   rintro _ ⟨F, hF⟩
   exact ⟨F, fun j ↦ h _ (hF j)⟩
 
+@[simp]
+lemma strictLimitsOfShape_bot [Nonempty J] :
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/ObjectProperty/LimitsOfShape.lean:67]: Idem dito for the additions in this file: please add the colimit-variants.

File: Mathlib/CategoryTheory/ObjectProperty/ColimitsOfShape.lean [hunk 3]
```diff
@@ -70,6 +70,14 @@ lemma strictColimitsOfShape_monotone {Q : ObjectProperty C} (h : P ≤ Q) :
   rintro _ ⟨F, hF⟩
   exact ⟨F, fun j ↦ h _ (hF j)⟩
 
+@[simp]
+lemma strictColimitsOfShape_bot [Nonempty J] :
+    strictColimitsOfShape (⊥ : ObjectProperty C) J = ⊥ := by
+  rw [eq_bot_iff]
+  rintro _ ⟨_, h⟩
+  let ⟨j⟩ := ‹Nonempty J›
+  exact h j
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ObjectProperty/ColimitsOfShape.lean]:
```suggestion
  exact h (Classical.arbitrary J)
```

File: Mathlib/CategoryTheory/ObjectProperty/ColimitsOfShape.lean [hunk 4]
```diff
@@ -138,6 +146,13 @@ lemma strictColimitsOfShape_le_colimitsOfShape :
   rintro X ⟨F, hF⟩
   exact ⟨.colimit F hF⟩
 
+@[simp]
+lemma colimitsOfShape_bot [Nonempty J] : colimitsOfShape (⊥ : ObjectProperty C) J = ⊥ := by
+  rw [eq_bot_iff]
+  rintro X ⟨⟨_, h⟩⟩
+  let ⟨j⟩ := ‹Nonempty J›
+  exact h j
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ObjectProperty/ColimitsOfShape.lean]:
```suggestion
  exact h (Classical.arbitrary J)
```
